US04945092
To a suspension of 6.0 g (23.3 mmol) of 1-[2-(2-oxopyrrolidin-1-yl)-acetyl]-piperazine hydrochloride in 80 ml of methylene chloride there are added firstly 2.6 g (3.6 ml; 25.5 mmol) of triethylamine and then, dropwise, a solution of 13.7 g (23.3 mmol) of 2-[4-(p-chlorophenyl)-2-oxopyrrolidin-1-yl]-acetic acid pentachlorophenyl ester in 30 ml of methylene chloride. After being stirred at 20° for 16 hours, the suspension is filtered with suction. 6.16 g of a white crystalline mass are obtained. 110 ml of ethyl ether are stirred into the filtrate, whereby a further 6.51 g of precipitate can be formed and collected. The two portions are combined, triturated under 200 ml of ethyl ether and filtered with suction, and the resulting product is dissolved in 150 ml of hot glacial acetic acid, and warm water (50°) is added until the solution becomes cloudy. The whole is cooled to 20 °; after 3 hours, the resulting crystalline product is filtered off with suction and dried on a water bath. 1-[4-(p-chlorophenyl)-2-oxopyrrolidin-1-ylacetyl]-4-(2-oxopyrrolidin1-ylacetyl)-piperazine having a melting point of 224°-226° is obtained.

reactant | 1-[2-(2-oxopyrrolidin-1-yl)-acetyl]-piperazine hydrochloride | 23.3 mmol, 6.0 g | Cl.O=C1N(CCC1)CC(=O)N1CCNCC1
reactant | triethylamine | 25.5 mmol, 3.6 ml, 2.6 g | C(C)N(CC)CC | C6H15N
reactant | 2-[4-(p-chlorophenyl)-2-oxopyrrolidin-1-yl]-acetic acid pentachlorophenyl ester | 23.3 mmol, 13.7 g | ClC1=C(C(=C(C(=C1OC(CN1C(CC(C1)C1=CC=C(C=C1)Cl)=O)=O)Cl)Cl)Cl)Cl | C18H11Cl6NO3
reactant | ethyl ether | 110 ml | C(C)OCC | C4H10O
solvent | methylene chloride | 80 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
product | 1-[4-(p-chlorophenyl)-2-oxopyrrolidin-1-ylacetyl]-4-(2-oxopyrrolidin1-ylacetyl)-piperazine | ClC1=CC=C(C=C1)C1CC(N(C1)CC(=O)N1CCN(CC1)C(CN1C(CCC1)=O)=O)=O | C22H27ClN4O4
